US04061761
d. 3-Ethyl-2-ethylimino-4-(4-isopropyl-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride
5.5 g of 2-chloro-4'isopropyl-3'-sulfamoylacetophenone and 2.2 g of 1,3-diethylthio urea were reacted and worked up as prescribed in Example 12. Colorless solid body, decomposition beginning at 96° C, γC=N 1610 cm-1.

reactant | 2-chloro-4'isopropyl-3'-sulfamoylacetophenone | 5.5 g | ClCC(=O)C1=CC(=C(C=C1)C(C)C)S(N)(=O)=O | C11H14ClNO3S
reactant | 1,3-diethylthio urea | 2.2 g | C(C)NC(=S)NCC | C5H12N2S
product | 3-Ethyl-2-ethylimino-4-(4-isopropyl-3-sulfamoylphenyl)-1,3-thiazolidine-4-ol-hydrochloride | Cl.C(C)N1C(SCC1(O)C1=CC(=C(C=C1)C(C)C)S(N)(=O)=O)=NCC | InChI=1S/C16H25N3O3S2.ClH/c1-5-18-15-19(6-2)16(20,10-23-15)12-7-8-13(11(3)4)14(9-12)24(17,21)22;/h7-9,11,20H,5-6,10H2,1-4H3,(H2,17,21,22);1H
